US07256177B2
N-Allylglycine ethyl ester hydrochloride 21f (R9b═H, m=1).
To a solution of N-allylglycine ethyl ester (10.0 g, 70.0 mmol, 1 equiv) in Et2O (260 mL) and hexane (1.3 L) at 23° C. was slowly added 4.0 M HCl in dioxane (16.6 mL, 66.5 mmol, 0.95 equiv) over the course of 35 min via addition funnel. Following the addition the suspension was stirred a further 40 min, then the product was isolated via filtration through a glass frit, washing with hexane (200 mL). The collected white solid was transferred to a flask and placed under vacuum (0.5 mm Hg) for 1 h to give 11.5 g of the desired product as a white solid. The reaction was repeated on the same scale to yield a total of 22.73 g (127 mmol, 90%) of the desired amine hydrochloride 21f (R9b═H, m=1) as a white solid: 1H NMR (300 MHz, DMSO-d6) 9.50 (s, 2H), 5.95-5.81 (m, 1H), 5.49-5.37 (m, 2H), 4.21 (q, J=7.2 Hz, 2H), 3.92 (s, 2H), 3.59 (d, J=6.6 Hz, 2H), 1.24 (t, J=7.2 Hz, 3H); MS (ESPOS): 144.1 [M+H]+.

reactant | N-allylglycine ethyl ester | 70.0 mmol, 10.0 g, 1 equiv | C(C)OC(CNCC=C)=O | C7H13NO2
reactant | HCl | 4.0 M | Cl | ClH
reactant | dioxane | 66.5 mmol, 16.6 mL, 0.95 equiv | O1CCOCC1 | C4H8O2
solvent | Et2O | 260 mL | CCOCC | C4H10O
solvent | hexane | 1.3 L | CCCCCC | C6H14
product | N-Allylglycine ethyl ester hydrochloride | 11.5 g | Cl.C(C)OC(CNCC=C)=O | InChI=1S/C7H13NO2.ClH/c1-3-5-8-6-7(9)10-4-2;/h3,8H,1,4-6H2,2H3;1H
